US08034812B2
Production of N-{5-[(2-{[(2,2-dimethylcyclopropyl)carbonyl]amino}imidazo[1,2-b]pyridazin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide
Using 2,2-dimethylcyclopropanecarboxylic acid (82 mg, 0.72 mmol), tetrahydrofuran (3.0 mL), N,N-dimethylformamide (20 μL, 0.26 mmol), oxalyl chloride (63 μL, 0.72 mmol), N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide.hydrochloride (200 mg, 0.48 mmol) and N,N-dimethylacetamide (4.0 mL), and in the same manner as in Example 239, the title compound (37 mg, 16%) was obtained as a white powder.

reactant | 2,2-dimethylcyclopropanecarboxylic acid | 0.72 mmol, 82 mg | CC1(C(C1)C(=O)O)C | C6H10O2
reactant | N,N-dimethylformamide | 0.26 mmol, 20 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.72 mmol, 63 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide.hydrochloride | 0.48 mmol, 200 mg | Cl.NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)F)C1
solvent | N,N-dimethylacetamide | 4.0 mL | CN(C(C)=O)C | C4H9NO
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | N-{5-[(2-{[(2,2-dimethylcyclopropyl)carbonyl]amino}imidazo[1,2-b]pyridazin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 37 mg, 16% | CC1(C(C1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)F)C1)C | C24H24FN7O3
